US09371320B2
D) 4-benzyl-2-methoxypyridin-3-amine
A solution of 7-methoxy-3-phenyl-1H-pyrazolo[3,4-c]pyridine (113 mg), iodobenzene (1.02 g), L-proline (23.0 mg), potassium carbonate (346 mg) and copper(I) iodide (19.1 mg) in DMSO (10 mL) was stirred under nitrogen atmosphere at 180° C. for 1 hr. The reaction mixture was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (75 mg).

reactant | 7-methoxy-3-phenyl-1H-pyrazolo[3,4-c]pyridine | 113 mg | COC=1N=CC=C2C1NN=C2C2=CC=CC=C2 | C13H11N3O
reactant | iodobenzene | 1.02 g | IC1=CC=CC=C1 | C6H5I
reactant | L-proline | 23.0 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 346 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 19.1 mg | [Cu]I
product | 4-benzyl-2-methoxypyridin-3-amine | 75 mg | C(C1=CC=CC=C1)C1=C(C(=NC=C1)OC)N | C13H14N2O
